US05504244
5-(4-n-heptylbenzoyl)pentanoic acid (30.5 g; 0.1 mole) is added slowly to concentrated sulfuric acid (3 ml) while maintaining the mixture temperature below 5° C. with external cooling. A mixture of concentrated nitric acid (8 ml) and sulfuric acid (12 ml) is added dropwise over one hour with the reaction temperature maintained below 5° C. The reaction mixture is poured into ice water (1 liter). The precipitate is collected, dissolved in 2N potassium hydroxide (200 ml), diluted with water (to 400 ml) and washed with ether (2×100 ml). The aqueous phase is acidified with concentrated hydrochloric acid and the product extracted with ether (3×150 ml). The ether solution is dried over magnesium sulfate, filtered and evaporated. The residue is chromatographed on a silica gel column (hexane: ether: acetic acid, 74:25:1) to give 5-(3-nitro-4-n-heptylbenzoyl)pentanoic acid (5.25 g) which on recrystallization from heptane is obtained as pale yellow crystals, m.p. 53°-56° C.

reactant | 5-(4-n-heptylbenzoyl)pentanoic acid | 0.1 mole, 30.5 g | C(CCCCCC)C1=CC=C(C(=O)CCCCC(=O)O)C=C1 | C19H28O3
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 8 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
product | 5-(3-nitro-4-n-heptylbenzoyl)pentanoic acid | 5.25 g | [N+](=O)([O-])C=1C=C(C(=O)CCCCC(=O)O)C=CC1CCCCCCC | C19H27NO5
